US08871760B2
To a stirring room temperature solution of {5-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-4-chloro-2-methyl-phenyl}-[(R)-5-(4-fluoro-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[3,4-c][1,4]oxazin-3-yl]-amine (700 mg, 1.31 mmol) in MeOH (20 mL) was added 6N aqueous HCl (1.5 mL). The mixture was stirred at room temperature for 10 minutes and then concentrated to dryness under reduced pressure. The residue was partitioned between saturated aqueous sodium carbonate and EtOAc. The organic layer was separated, washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was chromatographed through silica gel (MeOH/CH2Cl2/NH4OH 5%/74.75%/0.25%) to give 520 mg (95%) of 2-{2-Chloro-5-[(R)-5-(4-fluoro-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[3,4-c][1,4]oxazin-3-ylamino]-4-methyl-phenoxy}-ethanol, MP=161-162° C., MS (M+H)=420.

reactant | {5-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-4-chloro-2-methyl-phenyl}-[(R)-5-(4-fluoro-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[3,4-c][1,4]oxazin-3-yl]-amine | 1.31 mmol, 700 mg | C(C)(C)(C)[Si](OCCOC=1C(=CC(=C(C1)NC1=NN=C2COC[C@H](N21)C2=CC=C(C=C2)F)C)Cl)(C)C | C26H34ClFN4O3Si
reactant | HCl | 6N, 1.5 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 2-{2-Chloro-5-[(R)-5-(4-fluoro-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[3,4-c][1,4]oxazin-3-ylamino]-4-methyl-phenoxy}-ethanol | 520 mg, 95% | ClC1=C(OCCO)C=C(C(=C1)C)NC1=NN=C2COC[C@H](N21)C2=CC=C(C=C2)F | C20H20ClFN4O3
